US06329528B1
Into a 50 mL three necked round bottom flask equipped with a magnetic stirrer was added 2-chloro-6-fluorobenzthioamide (3.78 g, 20 mmol) and acetone (20 mL). Dropwise was added iodomethane (2.84 g, 1.24 mL, 20 mmol) and the mixture was allowed to stir at room temperature overnight with monitoring via HPCL (60/40 acetonitrile/water). The solids were removed via filtration and washed with small portions of acetone to give methyl 2-chloro-6-fluorobenzthioimidate hydroiodide as a light yellow solid: 3.1 g (46.9% yield): 1H NMR (DMSO-d6) δ7.7 (m, 1H), 7.5 (m, 2H), 2.7 (s, 3H).

reactant | 2-chloro-6-fluorobenzthioamide | 20 mmol, 3.78 g | ClC1=C(C(N)=S)C(=CC=C1)F | C7H5ClFNS
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | iodomethane | 20 mmol, 1.24 mL, 2.84 g | IC | CH3I
solvent | acetonitrile water | C(C)#N.O
product | methyl 2-chloro-6-fluorobenzthioimidate hydroiodide | 46.9% yield | I.ClC1=C(C(=N)SC)C(=CC=C1)F | InChI=1S/C8H7ClFNS.HI/c1-12-8(11)7-5(9)3-2-4-6(7)10;/h2-4,11H,1H3;1H
